US08623889B2
Step 2: 1-(5-bromo-4-methylpyridin-2-yl)-2,2,2-trifluoro-N-(4-methoxybenzylidene)ethanamine
A solution of 1-(5-bromo-4-methylpyridin-2-yl)-2,2,2-trifluoroethane-1,1-diol (163.1 mg; 0.5702 mmol) in 2.0 mL toluene was added at room temperature to a solution of 4-methoxybenzylamine (118 μL; 0.858 mmol) and acetic acid (49 μL; 0.854 mmol) in 2.0 mL toluene. A scoop of oven-dried 3A molecular sieves was added, and the reaction mixture heated at 110° C. for 3 days. The mixture was poured into saturated aqueous sodium bicarbonate and extracted twice with dichloromethane. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated. The crude product was purified via flash chromatography on silica gel (24 g silica, solvent gradient: 0-100% ethyl acetate in dichloromethane) to yield 164.2 mg of the title compound. LCMS (ESI): M-(4-methoxybenzaldehyde)+H=269.2; 1H NMR (400 MHz, DMSO) δ 8.69 (s, 1H), 8.57 (s, 1H), 7.80 (d, J=8.7 Hz, 2H), 7.66 (s, 1H), 7.05 (d, J=8.7 Hz, 2H), 5.28 (q, J=8.0 Hz, 1H), 3.82 (s, 3H), 2.41 (s, 3H).

reactant | 1-(5-bromo-4-methylpyridin-2-yl)-2,2,2-trifluoroethane-1,1-diol | 0.5702 mmol, 163.1 mg | BrC=1C(=CC(=NC1)C(C(F)(F)F)(O)O)C | C8H7BrF3NO2
reactant | 4-methoxybenzylamine | 0.858 mmol, 118 μL | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | acetic acid | 0.854 mmol, 49 μL | C(C)(=O)O | C2H4O2
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(5-bromo-4-methylpyridin-2-yl)-2,2,2-trifluoro-N-(4-methoxybenzylidene)ethanamine | 164.2 mg | BrC=1C(=CC(=NC1)C(C(F)(F)F)N=CC1=CC=C(C=C1)OC)C | C16H14BrF3N2O
